US07842817B2
N-[1-(3,4-Difluorobenzyl)benzimidazol-2-yl]-3,4-difluoroaniline
The title compound was prepared by Procedure B in two steps from 2-chloro-benzimidazole, 3,4-difluorobenzyl bromide and 3,4-difluoroaniline. The product was isolated by filtration and recrystallization (MeOH/Et2O) to give the title compound as its hydrochloride salt (white solid, mp 236-238° C.). MS(ES+) m/z 372 ([M+1]+, 100). 1NMR (DMSO-d6) δ 5.61 (s, 2H), 7.19-7.30 (m, 3H), 7.36-7.61 (m, 6H), 7.83-7.91 (m, 1H), 11.0 (br s, 1H).

reactant | 2-chloro-benzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
solvent | MeOH Et2O | CO.CCOCC
product | N-[1-(3,4-Difluorobenzyl)benzimidazol-2-yl]-3,4-difluoroaniline | FC=1C=C(CN2C(=NC3=C2C=CC=C3)NC3=CC(=C(C=C3)F)F)C=CC1F | C20H13F4N3
